US07816523B2
Synthesis of 3-[3-(tetrahydro-pyran-2-yloxymethyl)-phenyl]-4H-[1,2,4]oxadiazol-5-one
Add 50% aqueous hydroxylamine (9.73 g, 147 mmol) dropwise to a refluxing solution of 3-(tetrahydro-pyran-2-yloxymethyl)-benzonitrile (8.00 g, 36.8 mmol) in isopropanol (0.1M). After 2 hours, cool to room temperature and concentrate under reduced pressure to give a residue. Dissolve the residue in dioxane (0.1M). Add carbonyldiimidazole (7.16 g, 44.2 mmol) and heat to 110° C. After 30 minutes, cool to room temperature and pour into water. Extract with ethyl acetate. Combine the organic layers, dry with sodium sulfate, filter and concentrate under reduced pressure to yield the title product as a white solid (9.10 g, 89%): 1H NMR (CDCl3) δ 1.53-1.95 (m, 6H), 3.59 (m, 1H), 3.93 (m, 1H), 4.58 (d, 1H), 4.77 (t, 1H), 4.88 (d, 1H), 7.52 (t, 1H), 7.57 (d, 1H), 7.71 (d, 1H), 7.82 (s, 1H), 11.16 (bs, 1H)

reactant | hydroxylamine | 147 mmol, 9.73 g | NO | H3NO
reactant | 3-(tetrahydro-pyran-2-yloxymethyl)-benzonitrile | 36.8 mmol, 8.00 g | O1C(CCCC1)OCC=1C=C(C#N)C=CC1 | C13H15NO2
reactant | carbonyldiimidazole | 44.2 mmol, 7.16 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | O | H2O
solvent | isopropanol | 0.1M | C(C)(C)O | C3H8O
solvent | dioxane | 0.1M | O1CCOCC1 | C4H8O2
product | 3-[3-(tetrahydro-pyran-2-yloxymethyl)-phenyl]-4H-[1,2,4]oxadiazol-5-one | 9.10 g, 89% | O1C(CCCC1)OCC=1C=C(C=CC1)C1=NOC(N1)=O | C14H16N2O4
